US04096267
Step C: 2-(4-Methoxyphenyl)-2-methyl-5-benzyloxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (8.42 g., 0.075 mole) dissolved in tert-butanol (450 ml.) is added to a refluxing solution of 2-methyl-5-benzyloxy-6,7-dichloro-1-indanone (16.1 g., 0.05 mole) in tert-butanol (150 ml.)-benzene (600 ml.), refluxing is continued for 2.5 hrs., then 4,4'-dimethoxydiphenyliodonium chloride (37.66 g., 0.10 mole) is added and refluxing is continued for 3 hrs. The reaction mixture is cooled to 25° C., 500 ml. water added, and the mixture concentrated in vacuo to give a brown oil which on ether extraction, drying over anhydrous magnesium sulfate, removal of the ether and chromatographing of the residue on silica gel with chloroform gives 3.44 g. of 2-(4-methoxyphenyl)-2-methyl-5-benzyloxy-6,7-dichloro-1-indanone which melts at 115°-119° C. and is used without further purification.

reactant | Potassium tert-butoxide | 0.075 mole, 8.42 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-benzyloxy-6,7-dichloro-1-indanone | 0.05 mole, 16.1 g | CC1C(C2=C(C(=C(C=C2C1)OCC1=CC=CC=C1)Cl)Cl)=O | C17H14Cl2O2
reactant | benzene | 600 ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
solvent | tert-butanol | 450 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 2-(4-Methoxyphenyl)-2-methyl-5-benzyloxy-6,7-dichloro-1-indanone | COC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OCC1=CC=CC=C1)Cl)Cl)=O)C | C24H20Cl2O3
